US07642264B2
3′-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-ylamine
To a stirred suspension of 2-(3′-nitro-biphenyl-3-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine (1.6 g, 3.27 mmol) in MeOH (40 mL) was added at room temperature Pd—C (10%, 0.16 g) and THF (40 mL). The mixture was stirred at room temperature under H2 atmosphere for 2 h, the catalyst was removed by filtration and the obtained solution evaporated. The crude product was further purified by crystallization from diethyl ether/hexane to yield the title compound as an off-white solid (1.28 g, 85%). MS (ISP) 460.2 [(M+H)+]; mp 156.5° C.

reactant | 2-(3′-nitro-biphenyl-3-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | 3.27 mmol, 1.6 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C24H13F6N3O2
reactant | THF | 40 mL | C1CCOC1 | C4H8O
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd—C | 0.16 g | [Pd] | Pd
product | 3′-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-ylamine | 1.28 g, 85% | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1=CC(=CC=C1)N)(F)F | C24H15F6N3
